US07612075B2
B. 2-Benzyloxycarbonylamino-3-(bromoactyl-prop-2-ynyl-amino)-propionic acid methyl ester.
DCC (2.27 g, 11.0 mmol) and bromoacetic acid (1.48 g, 10.7 mmol) is added to a solution of 2-benzyloxycarbonylamino-3-(prop-2-ynylamino)-propionic acid methyl ester (3.10 g, 10.7 mmol) in CH2Cl2 at RT. The mixture is stirred overnight then diluted with ether. The white solid which precipitates out is filtered and the filtrate is concentrated to give a yellow oil. The crude product is purified by chromatography eluting with a gradient of 40% EtOAc/hexanes to 50% EtOAc/hexanes to yield the title product (2.1 g, 5.12 mmol) as an oil. 1H NMR (CDCl3, 300 MHz) δ7.30 (m, 5H), 5.70 (d, 1H), 5.10 (s, 2H), 4.63 (m, 1H), 4.15 (d, 2H), 4.00 (m, 1H), 3.80 (s, 3H), 3.75 (s, 2H), 3.70 (dd, 1H), 2.27 (bs, 1H). Ion spray MS, [M+H]+=411, 413, Br pattern.

reactant | DCC | 11.0 mmol, 2.27 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | bromoacetic acid | 10.7 mmol, 1.48 g | BrCC(=O)O | C2H3BrO2
reactant | 2-benzyloxycarbonylamino-3-(prop-2-ynylamino)-propionic acid methyl ester | 10.7 mmol, 3.10 g | COC(C(CNCC#C)NC(=O)OCC1=CC=CC=C1)=O | C15H18N2O4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2-Benzyloxycarbonylamino-3-(bromoactyl-prop-2-ynyl-amino)-propionic acid methyl ester | 5.12 mmol, 2.1 g | COC(C(CN(CC#C)C(CBr)=O)NC(=O)OCC1=CC=CC=C1)=O | C17H19BrN2O5
